US04814332
2.47 g of 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-(methylthio)imidazolium tetrafluoroborate are suspended in 50 ml of absolute acetonitrile, whereupon the suspension is treated with 7.8 g of absolute 2-amino-5-(diethylamino)pentane. The mixture is stirred at room temperature under an argon atmosphere for about 24 hours. The insoluble constituents are removed by filtration and the filtrate is treated with 450 ml of diethyl ether. The pale yellow precipitate obtained is removed by filtration under suction, washed three times with diethyl ether and recrystallized from methanol/diethyl ether. There is obtained pale yellow 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-[[4-(diethylamino)-1-methylbutyl]amino]imidazolium tetrafluoroborate of melting point 187°-191° (decomposition).

reactant | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-(methylthio)imidazolium tetrafluoroborate | 2.47 g | F[B-](F)(F)F.CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)SC)C=C1)C
reactant | 2-amino-5-(diethylamino)pentane | 7.8 g | NC(C)CCCN(CC)CC | C9H22N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-[[4-(diethylamino)-1-methylbutyl]amino]imidazolium tetrafluoroborate | F[B-](F)(F)F.CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)NC(CCCN(CC)CC)C)C=C1)C | InChI=1S/C30H44N8.BF4/c1-8-36(9-2)20-10-11-25(3)33-30-37(31-23-26-12-16-28(17-13-26)34(4)5)21-22-38(30)32-24-27-14-18-29(19-15-27)35(6)7;2-1(3,4)5/h12-19,21-25H,8-11,20H2,1-7H3;/q;-1/p+1
